US09120749B2
tert-butyl 1-(5-(3-acetyl-6-bromoquinolin-4-ylamino)pyridin-2-yl)pyrrolidin-3-ylcarbamate
Following General procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (284 mg, 1 mmol) was reacted with tert-butyl 1-(5-aminopyridin-2-yl)pyrrolidin-3-ylcarbamate (439 mg, 1.5 mmol) to afford the desired product (240 mg, 46%) as a yellow solid: ESI MS ink 526 [C25H28BrN5O3+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 1 mmol, 284 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | tert-butyl 1-(5-aminopyridin-2-yl)pyrrolidin-3-ylcarbamate | 1.5 mmol, 439 mg | NC=1C=CC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O | C14H22N4O2
product | tert-butyl 1-(5-(3-acetyl-6-bromoquinolin-4-ylamino)pyridin-2-yl)pyrrolidin-3-ylcarbamate | 240 mg, 46% | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O)Br | C25H28BrN5O3
